US07642264B2
2-Chloro-4-(3-ethoxy-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 4-(3-ethoxy-4-trifluoromethyl-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one (3.74 g, 10.6 mmol) and phosphoryl chloride (35 mL) according to the general procedure I. Obtained as a light brown solid. MS (EI) 370.0 [(M)+]; mp 89° C.

reactant | 4-(3-ethoxy-4-trifluoromethyl-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one | 10.6 mmol, 3.74 g | C(C)OC=1C=C(C=CC1C(F)(F)F)C1=NC(NC(=C1)C(F)(F)F)=O | C14H10F6N2O2
reactant | phosphoryl chloride | 35 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-(3-ethoxy-4-trifluoromethyl-phenyl)-6-trifluoromethyl-pyrimidine | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)C(F)(F)F)OCC)C(F)(F)F | C14H9ClF6N2O
